US04207228
Preparation of N5 -(β-hydroxyethyl)-4,4-dimethyl-decahydro-1,5-benzodiazepin-2-one:
38.6 g 4,4-dimethyl-decahydro-1,5-benzodiazepin-2-one is placed in a 250 ml flask with a slight molar excess of ethylene oxide (about 13.2 g) dissolved in ethyl alcohol. The reaction is run in an autoclave at 170°-180° C. A viscous brown paste is obtained which is dissolved in benzene. Upon recrystallization from benzene a white solid is obtained having a melting pt. 154°-156° C.

reactant | 4,4-dimethyl-decahydro-1,5-benzodiazepin-2-one | 38.6 g | CC1(NC2C(NC(C1)=O)CCCC2)C | C11H20N2O
reactant | ethylene oxide | about 13.2 g | C1CO1 | C2H4O
solvent | ethyl alcohol | C(C)O | C2H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N5 -(β-hydroxyethyl)-4,4-dimethyl-decahydro-1,5-benzodiazepin-2-one | OCCN1C(CC(NC2C1CCCC2)=O)(C)C | C13H24N2O2
